*
* Subcircuit for Parmeko mains transformer model 6000/71
*
* Primary 230/240V AC
*
* Secondary 318V AC @ 300mA DC
*           6.3V AC @ 5A
*
* D.Munro - 10/4/97
*
* 10/04/97  Initial model
*
* 02/05/97  Model changed to take out leaked inductance/capacitance etc.
*           Also "leak" resistors put in to stop error messages when windings
*           were left unconnected.
*
*
* Pin 1   Mains neutral
*     2   Mains 230V tap
*     3   Mains 240V tap
*
*     4,5 318V AC
*     6,7 6.3V AC
*
.SUBCKT PARMEKO 1 2 3 4 5 6 7
*
* Primary
*
Rpri1   1       10      5.7
Lpri1   10      2       5.1H
Rpri2   2       11      0.5
Lpri2   11      3       10mH
Rleak1  0       1       1000MEG
Rleak2  0       2       1000MEG
Rleak3  0       3       1000MEG
*
* HV Secondary
*
Rsec1   4       20      18
Lsec1   20      21      4.8H
Rsec2   21      22      7.5
Lsec2   22      5       1.17H
Rleak4  0       4       1000MEG
Rleak5  0       5       1000MEG
*
* Heater secondary
*
Rsec3   6       30      0.025
Lsec3   30      31      1.09mH
Rsec4   31      32      0.025
Lsec4   32      7       1.09mH
Rleak6  0       6       1000MEG
Rleak7  0       7       1000MEG
*
* Coupling
*
K1      Lpri1 Lpri2 Lsec1 Lsec2 Lsec3 Lsec4 0.997
.ENDS 
