*
* Trace Elliot Velocette 12R Mains Transformer
* Part no. 73 TRAN 15W VG2
*
* [1] Brown ---. || .--- Purple		 [5]
*              ) || (
*        120V  ) || (  28V
*              ) || .--- Purple          [6]
* [2] Blue  ---. || .--- Red		 [7]
*                || (
* [3] Brown ---. || (
*              ) || (  313V
*        120V  ) || (
*              ) || .--- Black           [8]
* [4] Blue  ---. ||
*		 || .--- Grey		 [9]
*		 || (
*		 || .--- Green	6.3V CT	 [10]
*		 || (
*		 || .--- Grey		 [11]
*
.SUBCKT tracevg2 1 2 3 4 5 6 7 8 9 10 11
*
* Primary
*
Lleak1  1       20      10mH
Lpri1   20      21      120H
Rpri1   21      2       13.0
Lleak2  3       22      10mH
Lpri2   22      23      120H
Rpri2   23      4       11.7
*
* Secondary (28V off load)
*
Lsec28	5	25	6.5H
Rsec28  25      6	2.6
*
* Secondary (313V off load)
*
Lsec313	7	26	816.4H
Rsec313 26	8	75.5
*
* Secondary (7.3V off load, centre tapped)
*
Lsec73a	9	27	111mH
Rsec73a 27	10	0.15
Rsec73b	10	28	0.15
Lsec73b	28	11	111mh
Kcoup   Lpri1 LPri2 Lsec28 Lsec313 Lsec73a Lsec73b 1.0
.ENDS 
